US04176116
32 g (0.1 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline were dissolved in 250 ml of dry tetrahydrofuran and the solution was cooled to -10° C. 12.7 ml (0.1 mol) of N-ethylmorpholine and 13.1 ml (0.1 mol) of isobutyl chloroformate were then added and the solution was stirred at -10° C. for 20 minutes. To this mixture was then added a further 12.7 ml of N-ethylmorpholine followed by a solution of 8.15 g (0.1 mol) of ethylammonium chloride in 50 ml of dimethylformamide. The solution was stirred for 1 hour at 0° C. then left for 16 hours at room temperature. The solvents were removed by evaporation and the residue was triturated with 450 ml of ethyl acetate and washed successively with 200 ml of 1-N hydrochloric acid, 200 ml of water and 200 ml of 5% sodium bicarbonate solution. After drying over sodium sulphate and filtration, the solvent was removed by evaporation. The resulting oil crystallised slowly from ethyl acetate ether to yield 20.7 g of N-benzyloxycarbonyl-L-alanyl-L-proline ethylamide of melting point 110°-113° C. Evaporation of the mother liquors followed by treatment with ethyl acetate/ether gave a further crop of 1.2 g of melting point 107°-110° C.; total yield 68% [α]D20 =-96.0° (c=1.04% in methanol).

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline | 0.1 mol, 32 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H20N2O5
reactant | N-ethylmorpholine | 0.1 mol, 12.7 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 0.1 mol, 13.1 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethylmorpholine | 12.7 ml | C(C)N1CCOCC1 | C6H13NO
reactant | ethylammonium chloride | 0.1 mol, 8.15 g | [Cl-].C(C)[NH3+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl-L-alanyl-L-proline ethylamide | 20.7 g, yield 68% | C(C)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C18H25N3O4
